US04198407
4-(4-methylthio-phenoxy)-phenyldiazonium chloride of formula IX
A solution of 2.8 g (0.04 mol) of sodium nitrite in 15 ml of water is added dropwise, at an internal temperature of max. 10° C., to 10.7 g (0.04 mol) of 4-(4-methylthiophenoxy)-aniline in 100 ml of glacial acetic acid and 7.5 ml of conc. hydrochloric acid. Then stirring is continued for 15 minutes.

reactant | sodium nitrite | 0.04 mol, 2.8 g | N(=O)[O-].[Na+]
reactant | 4-(4-methylthiophenoxy)-aniline | 0.04 mol, 10.7 g | CC1=CC=C(SC2=CC=C(N)C=C2)C=C1 | C13H13NS
reactant | hydrochloric acid | 7.5 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-(4-methylthio-phenoxy)-phenyldiazonium chloride | [Cl-].CC1=CC=C(SC2=CC=C(C=C2)[N+]#N)C=C1 | InChI=1S/C13H11N2S.ClH/c1-10-2-6-12(7-3-10)16-13-8-4-11(15-14)5-9-13;/h2-9H,1H3;1H/q+1;/p-1
